US04220646
Triethylamine (3.03 g.) is added to a suspension of 2-(5-chloropyrid-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one (3.8 g.) and 1-ethoxycarbonylpiperazine hydrochloride (4.86 g.) in acetonitrile (50 cc.), and the mixture is stirred for 18 hours at a temperature of about 20° C. Water (100 cc.) is then added and the insoluble product is filtered off and washed with water (10 cc.). After drying, a product (4 g.) is obtained which, after recrystallisation from acetonitrile (30 cc.), gives 2-(5-chloropyrid-2-yl)-3-(4-ethoxycarbonylpiperazin-1-yl)carbonyloxy-isoindolin-1-one (2.8 g.) melting at 160° C.

reactant | Triethylamine | 3.03 g | C(C)N(CC)CC | C6H15N
reactant | 2-(5-chloropyrid-2-yl)-3-phenoxycarbonyloxy-isoindolin-1-one | 3.8 g | ClC=1C=CC(=NC1)N1C(C2=CC=CC=C2C1OC(=O)OC1=CC=CC=C1)=O | C20H13ClN2O4
reactant | 1-ethoxycarbonylpiperazine hydrochloride | 4.86 g | Cl.C(C)OC(=O)N1CCNCC1
reactant | Water | 100 cc | O | H2O
solvent | acetonitrile | 50 cc | C(C)#N | C2H3N
product | 2-(5-chloropyrid-2-yl)-3-(4-ethoxycarbonylpiperazin-1-yl)carbonyloxy-isoindolin-1-one | 2.8 g | ClC=1C=CC(=NC1)N1C(C2=CC=CC=C2C1OC(=O)N1CCN(CC1)C(=O)OCC)=O | C21H21ClN4O5
